US04876262
1-(2-(2-Imidazo[1,2-a]pyridyl)ethyl]-4-(4-methylsulfonylaminobenzoyl)piperidine
A mixture of 1.02 g (3.2 mmol) of 4-(4-methylsulfonylaminobenzoyl)piperidine hydrochloride, 1.34 g of sodium hydrogencarbonate and 10 ml of dimethylformamide was stirred at 80° C. for 1 h. 0.48 g of 2-(2-chloroethyl)imidazo[1,2-a]pyridine hydrochloride and 0.53 g of potassium iodide were added thereto and the mixture was stirred at 80° C. for 2 h. The mixture was filtered and the filtrate was concentrated to obtain a solid residue, which was then purified according to silica gel column chromatography (chloroform:methanol:aqueous ammonia=190:9:1). The fraction of the intended compound was concentrated to obtain a solid residue, which was then recrystallized from ethyl acetate to obtain 0.25 g (yield: 18%) of the intended compound.

reactant | 4-(4-methylsulfonylaminobenzoyl)piperidine hydrochloride | 3.2 mmol, 1.02 g | Cl.CS(=O)(=O)NC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | sodium hydrogencarbonate | 1.34 g | C(O)([O-])=O.[Na+]
reactant | 2-(2-chloroethyl)imidazo[1,2-a]pyridine hydrochloride | 0.48 g | Cl.ClCCC=1N=C2N(C=CC=C2)C1
reactant | potassium iodide | 0.53 g | [I-].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(2-(2-Imidazo[1,2-a]pyridyl)ethyl]-4-(4-methylsulfonylaminobenzoyl)piperidine | 0.25 g, yield: 18% | N=1C(=CN2C1C=CC=C2)CCN2CCC(CC2)C(C2=CC=C(C=C2)NS(=O)(=O)C)=O | C22H26N4O3S
